US04029493
A stirred solution of 4-chloro-2-methylbenzonitrile (4.7 g., 0.03 mole) and the potassium salt of 2-chloro-4-fluorophenol (5.54 g., 0.03 mole) in 40 ml of dimethyl acetamide was heated for 48 hours at 150° C. The cooled reaction mixture was diluted with 200 ml. of water to precipitate a brown oil. An ether extract yielded 7.6 g of 2-methyl-4-(2'-chloro-4'-fluorophenoxy)benzonitrile as a brown oil in about 90% purity.

reactant | 4-chloro-2-methylbenzonitrile | 0.03 mole, 4.7 g | ClC1=CC(=C(C#N)C=C1)C | C8H6ClN
reactant | potassium | [K] | K
reactant | 2-chloro-4-fluorophenol | 0.03 mole, 5.54 g | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
solvent | dimethyl acetamide | 40 ml | CC(=O)N(C)C | C4H9NO
product | 2-methyl-4-(2'-chloro-4'-fluorophenoxy)benzonitrile | 7.6 g | CC1=C(C#N)C=CC(=C1)OC1=C(C=C(C=C1)F)Cl | C14H9ClFNO
